US06489440B1
To a cold (0° C.) stirred solution of 4-bromo-4′-heptyloxybiphenyl (6.21 g, 17.9 mmol) in THF (120 ml) was added n-BuLi (1.66 M solution in hexane, 32.3 ml, 53.6 mmol). After the mixture was stirred at 0° C. for 20 min., DMF (4.85 ml, 62.6 mmol) was added at −78° C. The mixture was stirred at −78° C. for additional 20 min., and then quenched with sat. aqueous NH4Cl. The mixture was diluted with EtOAc (220 ml), and then successively washed with sat. aqueous NH4Cl. (125 ml) and sat. brine (100 ml). The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel (EtOAc/hexane, 1:20) to give 4-formyl-4′-heptyloxybiphenyl (2.21 g, 42%) as a white amorphous powder.

reactant | 4-bromo-4′-heptyloxybiphenyl | 17.9 mmol, 6.21 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC | C19H23BrO
reactant | n-BuLi | 53.6 mmol, 1.66 M, 32.3 ml | [Li]CCCC
reactant | DMF | 62.6 mmol, 4.85 ml | CN(C)C=O | C3H7NO
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 4-formyl-4′-heptyloxybiphenyl | 2.21 g, 42% | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC | C20H24O2
